US09056859B2
A solution of 2-(methylsulfanyl)-4-nitrobenzoic acid (5.3 g, 24.9 mmol) in 50 mL of THF was treated with (CoCL)2 (17.5 ml) and then DMF (2 drops). After stirring at room temperature for 2 hours, the mixture was evaporated. The residue was dissolved in 50 mL of DCM and added a solution of CH2N2 in 80 mL Et2O at 0° C. and stirred overnight. After the reaction was completed, the Et2O was partly evaporated and the product (3.7 g) filtered. A solution of the product (3.7 g, 15.6 mmol) in 90 mL dioxane was treated at 50° C. with 10 mL of water and added over 30 min with a suspension of Ag2O prepared from 3.98 g AgNO3. The mixture was stirred for 30 min at 85° C. and cooled. The precipitated product was filtered. It was decomposed with hydrochloric acid and the released acid was extracted with EtOAc. The combined organic layers were washed with 5% NaHCO3. Then the aqueous layer was acidified to pH=1˜2, extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous Na2SO4 and concentrated to afford [2-(methylsulfanyl)-4-nitrophenyl]acetic acid. 1H-NMR (400 MHz, MeOD) δ ppm 8.06˜8.07 (m, 1H), 7.93˜7.96 (m, 1H), 7.44 (d, J=8.6 Hz, 1H), 3.82 (s, 2H), 2.56 (s, 3H).

reactant | 2-(methylsulfanyl)-4-nitrobenzoic acid | 24.9 mmol, 5.3 g | CSC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C8H7NO4S
reactant | water | 10 mL | O | H2O
reactant | THF | 50 mL | C1CCOC1 | C4H8O
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
catalyst | AgNO3 | 3.98 g | [N+](=O)([O-])[O-].[Ag+]
product | [2-(methylsulfanyl)-4-nitrophenyl]acetic acid | CSC1=C(C=CC(=C1)[N+](=O)[O-])CC(=O)O | C9H9NO4S
